### PR TITLE
[Merged by Bors] - feat: if an L^p space is complete, so is its target space unless the measure is zero

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean [hunk 1]
```diff
@@ -0,0 +1,131 @@
...
+  contrapose! h'f
+  exact hf.ae_eq_mk.trans h'f
+
+variable (E p μ) in
+lemma nontrivial_Lp_real_of_nontrivial_Lp [Nontrivial (Lp E p μ)] : Nontrivial (Lp ℝ p μ) := by
+  obtain ⟨f, hf⟩ : ∃ f : Lp E p μ, f ≠ 0 := exists_ne 0
+  have hfne : ¬ (f =ᵐ[μ] 0) := by
+    contrapose! hf
+    ext
+    grw [hf, (Lp.coeFn_zero E p μ)]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean]:
```suggestion
    grw [hf, Lp.coeFn_zero E p μ]
```

File: Mathlib/MeasureTheory/Function/LpSpace/Basic.lean [hunk 2]
```diff
@@ -815,6 +816,46 @@ theorem smul_compLpL [Fact (1 ≤ p)] {𝕜''} [NormedRing 𝕜''] [Module 𝕜'
...
+def compLpL₂ [Fact (1 ≤ p)] (B : G →L[𝕜] E →L[𝕜] F) :
+    G →L[𝕜] Lp E p μ →L[𝕜] Lp F p μ :=
+  (B.compLpₗ₂ p μ).mkContinuous₂ ‖B‖ (fun c f ↦ by
+    simp only [compLpₗ₂_apply, compLpₗ_apply]
+    grw [norm_compLp_le, le_opNorm])
+
+@[simp] theorem compLpL₂_apply_apply [Fact (1 ≤ p)] (B : G →L[𝕜] E →L[𝕜] F) (g : G) (f : Lp E p μ) :
+    compLpL₂ p μ B g f = (B g).compLp f := rfl
+
+theorem norm_compLpL₂ [Fact (1 ≤ p)] (B : G →L[𝕜] E →L[𝕜] F) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/Basic.lean]:
```suggestion
theorem norm_compLpL₂_le [Fact (1 ≤ p)] (B : G →L[𝕜] E →L[𝕜] F) :
```

File: Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean [hunk 3]
```diff
@@ -0,0 +1,131 @@
...
+-/
+
+@[expose] public section
+
+open scoped ENNReal Topology
+open Filter ContinuousLinearMap
+
+namespace MeasureTheory
+
+variable {α E : Type*} [NormedAddCommGroup E] [MeasurableSpace α] {p : ℝ≥0∞} {μ : Measure α}
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean]:
```suggestion
variable {α E : Type*} [NormedAddCommGroup E] {mα : MeasurableSpace α} {p : ℝ≥0∞} {μ : Measure α}
```

File: Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean [hunk 4]
```diff
@@ -0,0 +1,131 @@
...
+
+lemma FinStronglyMeasurable.exists_measurableSet_measure_pos_lt_top {f : α → E}
+    (hf : FinStronglyMeasurable f μ) (h'f : ¬(f =ᵐ[μ] 0)) :
+    ∃ s, MeasurableSet s ∧ 0 < μ s ∧ μ s < ∞ := by
+  contrapose! h'f
+  rcases hf with ⟨fn, hfn, hfn_lim⟩
+  have A n : μ (Function.support (fn n)) = 0 := by
+    by_contra!
+    have := h'f (Function.support (fn n)) (fn n).measurableSet_support (by positivity)
+    exact (lt_irrefl _ (this.trans_lt (hfn n))).elim
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean]: Or
```suggestion
    grind
```

File: Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean [hunk 5]
```diff
@@ -0,0 +1,131 @@
...
+      contrapose! hf
+      simp [neZero_iff] at hf
+      ext
+      simp only [hf, ae_zero, ZeroMemClass.coe_zero]
+      trivial
+    contrapose! hf
+    ext
+    filter_upwards [compl_mem_ae_iff.2 hf] with y hy
+    simp at hy
+    simp [hy]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean]: I think this deserves a lemma `f ≠ 0 <-> ¬↑↑f =ᶠ[ae μ] 0`.
```suggestion
    apply μ.measure_support_eq_zero_iff.not.2
    contrapose! hf
    ext
    grw [Lp.coeFn_zero]
    exact hf
```

File: Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean [hunk 6]
```diff
@@ -0,0 +1,131 @@
...
+    apply ae_restrict_of_ae
+    apply ae_all_iff.2 (fun n ↦ ?_)
+    filter_upwards [(toSpanSingleton ℝ (u n)).coeFn_compLp f] with x hx using by simp [m, hx]
+  obtain ⟨x, xlim, hx, hmx⟩ : ∃ x, Tendsto (fun i ↦ f' (ns i) x) atTop (𝓝 (g x))
+    ∧ x ∈ Function.support f ∧ ∀ n, m (u n) x = (f x) • u n := (A.and (B.and C)).exists
+  simp only [Function.comp_apply, hmx, f'] at xlim
+  refine ⟨(f x)⁻¹ • g x, ?_⟩
+  apply tendsto_nhds_of_cauchySeq_of_subseq hu (StrictMono.tendsto_atTop hns)
+  convert Tendsto.const_smul xlim (f x)⁻¹ with n
+  rw [smul_smul, inv_mul_cancel₀, one_smul, Function.comp]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/CompleteOfCompleteLp.lean]:
```suggestion
  apply tendsto_nhds_of_cauchySeq_of_subseq hu hns.tendsto_atTop
  convert xlim.const_smul (f x)⁻¹ with n
```

**Comment by sgouezel** [comment]
Thanks for the review!

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
